US06399629B1
(A) Ethyl 6-Benzyl-1,4-Dihydro-4-Oxoquinoline-3-Carboxylate
A mixture of 4-aminodiphenylmethane (20.3 g) and diethyl ethoxymethylenemalonate (24.3 mL) was heated at 110° C. for 3.5 hr under nitrogen. The resulting mixture was diluted with phenyl ether (50 mL) and heated at 220° C. for 7.5 hr. After cooling, ethyl ether was added to the reaction mixture. The precipitate was collected by filtration, and washed with ethyl ether to afford the title compound (12.6 g) as a pale brown powder: mp 265-270° C.; 1H NMR (400 MHz, CDCl3—CD3OD (1:1, v/v)) δ 1.39 (t, J=6.8 Hz, 3H), 4.12 (s, 2H), 4.35 (q, J=6.8 Hz, 2H), 7.14-7.33 (m, 4H), 7.47 (d, J=8.3 Hz, 1H), 7.55 (d, J=8.3 Hz, 1H), 7.65-7.75 (m, 2H), 8.23 (s, 1H), and 8.59 (s, 1H).

reactant | 4-aminodiphenylmethane | 20.3 g | C1=CC=C(C=C1)CC2=CC=C(C=C2)N | C13H13N
reactant | diethyl ethoxymethylenemalonate | 24.3 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | phenyl ether | 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 6-Benzyl-1,4-Dihydro-4-Oxoquinoline-3-Carboxylate | 12.6 g | C(C1=CC=CC=C1)C=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C19H17NO3
